US04997836
A solution of 7,8-dimethoxy-2,3-dihydro-1-benzoxepine-4-carbonyl chloride (300 mg) in dichloromethane (10 ml) is added dropwise, taking 30 minutes under ice-cooling while stirring, to a mixture of 3-methoxymethyl-1-(3,4,5-trimethoxybenzoyl)piperazine×hydrochloride (400 mg) obtained in Reference Example 6, triethylamine (1 ml) and dichloromethane (30 ml). The reaction mixture is washed with an aqueous solution of citric acid and an aqueous solution of sodium hydrogencarbonate, then dried over magnesium sulfate, followed by concentration. The concentrate is subjected to a silica gel column chromatography (eluent: ethyl acetate-methanol =95:5) to afford 1-(7,8-dimethoxy2,3-dihydro-1-benzoxepin-4-ylcarbonyl) -2-methoxymethyl4-(3,4,5-trimethoxybenzoyl)piperazine (520 mg) as colorless crystals, m.p. 142° C.

reactant | 7,8-dimethoxy-2,3-dihydro-1-benzoxepine-4-carbonyl chloride | 300 mg | COC=1C(=CC2=C(C=C(CCO2)C(=O)Cl)C1)OC | C13H13ClO4
reactant | 3-methoxymethyl-1-(3,4,5-trimethoxybenzoyl)piperazine | COCC1CN(CCN1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | C16H24N2O5
reactant | hydrochloride | 400 mg | Cl | ClH
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(7,8-dimethoxy2,3-dihydro-1-benzoxepin-4-ylcarbonyl) -2-methoxymethyl4-(3,4,5-trimethoxybenzoyl)piperazine | 520 mg | COC=1C(=CC2=C(C=C(CCO2)C(=O)N2C(CN(CC2)C(C2=CC(=C(C(=C2)OC)OC)OC)=O)COC)C1)OC | C29H36N2O9
